US05688810
In a 250 mL r.b. flask, a solution of 2-bromo-4-chlorophenol (Lancaster: 16.94 g, 81.6 mmol, 1.0 equivuiv) in acetone (160 mL) was treated sequivuentially with iodomethane (6.10 mL, 98 mmol, 1.2 equivuiv), potassium carbonate (12 g), and water (4 mL). The reaction mixture was heated at reflux for 3 h, cooled to rt, and the bulk of the volatiles was removed under reduced pressure. The residue was poured into water (140 mL) and extracted with EtOAc (3×150 mL). The extracts were washed with brine (1×100 mL), combined, dried (K2CO3), filtered through a pad of Celite™, and concentrated to a clear oil. Short-path distillation (80°-85° C., 1 Torr) afforded 17.74 g (98%) of 2-bromo-4-chloroanisole as a clear liquid. Data for 2-bromo-4-chloroanisole:

reactant | 2-bromo-4-chlorophenol | 81.6 mmol, 16.94 g | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | iodomethane | 98 mmol, 6.10 mL | IC | CH3I
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 4 mL | O | H2O
solvent | acetone | 160 mL | CC(=O)C | C3H6O
product | 2-bromo-4-chloroanisole | 17.74 g, 98% | BrC1=C(C=CC(=C1)Cl)OC | C7H6BrClO
